US07265144B2
Step 1: Preparation of 2,2,2-trifluoro-N-[2-(4-methoxyphenyl)ethyl]acetamide
To a solution of 4-methoxyphenethylamine (2.5 g, 16.5 mmol) in CH2Cl2 (45 mL) at 0° C. was added a solution of trifluoroacetic anhydride in CH2Cl2 (5 mL). The reaction mixture was stirred at 0° C. for 30 min and then at rt for 1 h. Then a saturated aqueous solution of NH4Cl was added, the phases separated and the aqueous phase extracted with CH2Cl2. The combined organic phases were dried (Na2SO4), filtered and concentrated under reduced pressure. The resulting solid was recrystallized from Et2O/hexanes to give the product as a beige solid (2.36 g, 58%). 1H NMR (400 MHz, CDCl3), δ 2.82 (t, 2H), 3.62 (q, 2H), 3.81 (s, 3H), 6.19-6.30 (broad, 1H), 6.87 (d, 2H), 7.10 (d, 2H); GC-MS m/z 247 (M+),1 RT (min) 12.22.

reactant | 4-methoxyphenethylamine | 16.5 mmol, 2.5 g | COC1=CC=C(CCN)C=C1 | C9H13NO
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trifluoro-N-[2-(4-methoxyphenyl)ethyl]acetamide | 2.36 g, 58% | FC(C(=O)NCCC1=CC=C(C=C1)OC)(F)F | C11H12F3NO2
